US04668397
3.10 g (0.0043 mol) of tertiary butyloxycarbonylglycyl-ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline p-nitrophenyl ester was treated with 37 ml of a solution prepared by dissolving dry hydrogen chloride gas in ethyl acetate and adjusting the solution to a concentration of 3.5N while cooled with ice water for one hour. The product of this treatment was distilled to expel the solvent. The residue was solidified with ether. Consequently, there was obtained 2.74 g (yield 97%) of glycyl-ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline p-nitrophenyl ester hydrochloride.

reactant | tertiary butyloxycarbonylglycyl-ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline p-nitrophenyl ester | 0.0043 mol, 3.10 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@H]1N(CCC1)C(CN(C)C([C@@H](NC(CNC(=O)OC(C)(C)C)=O)CCCC(N)C(=O)OCC1=CC=CC=C1)=O)=O)=O | C35H46N6O11
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | glycyl-ε-benzyloxycarbonyl-L-lysyl-sarcosyl-L-proline p-nitrophenyl ester hydrochloride | 2.74 g, yield 97% | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC([C@H]1N(CCC1)C(CN(C)C([C@@H](NC(CN)=O)CCCC(N)C(=O)OCC1=CC=CC=C1)=O)=O)=O | InChI=1S/C30H38N6O9.ClH/c1-34(18-27(38)35-16-6-11-25(35)30(41)45-22-14-12-21(13-15-22)36(42)43)28(39)24(33-26(37)17-31)10-5-9-23(32)29(40)44-19-20-7-3-2-4-8-20;/h2-4,7-8,12-15,23-25H,5-6,9-11,16-19,31-32H2,1H3,(H,33,37);1H/t23?,24-,25-;/m0./s1
